US08471005B2
A mixture of 4-[1-(3-Methoxy-4-nitro-phenyl)-piperidin-4-yl]-piperazine-1-carboxylic acid benzyl ester (0.20 g, 0.44 mmol), Acetic acid (2 mL, 30 mmol), Ethanol (2 mL) and Zinc (0.20 g, 3.0 mmol) was stirred at room temperature for 3 hours. The reaction was filtered and evaporated. To the residue was added a saturated sodium bicarbonate solution and DCM, separated, dried and evaporated to give 4-[1-(4-Amino-3-methoxy-phenyl)-piperidin-4-yl]-piperazine-1-carboxylic acid benzyl ester as a dark blue solid (0.155 g, 82%). LCMS (m/e) 424 (M); 1H-NMR (DMSO-d6, 400 MHz) δ7.387.36 (m, 5H), 6.48 (s, 2H), 6.13 (s, 1H), 5.07 (s, 2H), 4.20 (br, 2H), 3.73 (s, 3H), 3.39 (m, 6H), 1.80 (m, 2H, 0.80 (m, 2H).

reactant | 4-[1-(3-Methoxy-4-nitro-phenyl)-piperidin-4-yl]-piperazine-1-carboxylic acid benzyl ester | 0.44 mmol, 0.20 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C24H30N4O5
reactant | Acetic acid | 30 mmol, 2 mL | C(C)(=O)O | C2H4O2
catalyst | Zinc | 3.0 mmol, 0.20 g | [Zn] | Zn
solvent | Ethanol | 2 mL | C(C)O | C2H6O
product | 4-[1-(4-Amino-3-methoxy-phenyl)-piperidin-4-yl]-piperazine-1-carboxylic acid benzyl ester | 0.155 g, 82% | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1CCN(CC1)C1=CC(=C(C=C1)N)OC | C24H32N4O3
